US07544690B2
To a solution of cis-(4-hydroxymethyl-cyclohexyl)-carbamic acid tert-butyl ester (17.7 g, 77.2 mmol) in THF (245 mL) were added triphenylphosphine (20.2 g, 77.0 mmol) and phthalimide (11.4 g, 77.5 mmol) successively. The resulting suspension was cooled on an ice-bath and 40% diethyl azodicarboxylate (DEAD) in toluene was added over 1 hr. The reaction mixture was stirred at ambient temperature for 2.5 days, concentrated, and purified by flash chromatography (silica gel, 33% EtOAc in hexane) to give a white solid. To a suspension of above solid (27.5 g) in EtOH (275 mL) was added hydrazine hydrate (5.76 g, 115 mmol). The mixture was stirred at reflux for 2.25 hr, cooled, concentrated. The precipitate was dissolved in 10% aqueous sodium hydroxide (350 mL). The aqueous layer was extracted with CHCl3 (three times). The combined organic layer was dried over MgSO4, filtered and concentrated. To a solution of the above residue in CHCl3 (275 mL) was added triethylamine (8.54 g, 84.4 mmol). The resulting solution was cooled to 0° C. and ZCl (14.4 g, 84.4 mmol) was added below 5° C. The reaction mixture was stirred at ambient temperature for 16 hr, and poured into saturated aqueous NaHCO3. The aqueous layer was extracted with CHCl3 (three times). The combined organic layer was dried over MgSO4, filtered, concentrated, and purified by flash chromatography (silica gel, 2% MeOH in CHCl3) to give cis-[4-(benzyloxycarbonylamino-methyl)-cyclohexyl]-carbamic acid tert-butyl ester (25.3 g, 91%) as a colorless oil.

reactant | cis-(4-hydroxymethyl-cyclohexyl)-carbamic acid tert-butyl ester | 77.2 mmol, 17.7 g | C(C)(C)(C)OC(N[C@@H]1CC[C@@H](CC1)CO)=O | C12H23NO3
reactant | triphenylphosphine | 77.0 mmol, 20.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 77.5 mmol, 11.4 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | hydrazine hydrate | 115 mmol, 5.76 g | O.NN
reactant | triethylamine | 84.4 mmol, 8.54 g | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 245 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 275 mL | CCO | C2H6O
solvent | CHCl3 | 275 mL | C(Cl)(Cl)Cl | CHCl3
product | cis-[4-(benzyloxycarbonylamino-methyl)-cyclohexyl]-carbamic acid tert-butyl ester | 25.3 g, 91% | C(C)(C)(C)OC(N[C@@H]1CC[C@@H](CC1)CNC(=O)OCC1=CC=CC=C1)=O | C20H30N2O4
